US04904674
5-[2-(Benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxylic acid
To a stirred, chilled (-70° C.) solution of 3-[2-(5-bromo-2-thienyl)-ethenyl]benzo[b]thiophene (15.0 g) and ether (500 ml) was added n-butyl lithium (20.5 ml, 2.5M solution in hexanes) over 15 mins., under a nitrogen atmosphere. The mixture was stirred 1.5 hr, and was transferred under nitrogen to a vessel containing a large excess of dry ice and ether (500 ml). The suspension was stirred at room temperature overnight. The mixture was poured into water (1 L) and the mixture was basified with 2.5N sodium hydroxide solution. The organic phase was removed. The aqueous phase was acidified with 10% hydrochloric acid and extracted with dichloromethane. The combined, dried over anhydrous sodium sulfate, organic phase was concentrated, and the residue was recrystallized from toluene to give 7.10 g (52.8%) of product, mp 196°-197° C.

reactant | 3-[2-(5-bromo-2-thienyl)-ethenyl]benzo[b]thiophene | 15.0 g | BrC1=CC=C(S1)C=CC=1C2=C(SC1)C=CC=C2 | C14H9BrS2
reactant | n-butyl lithium | 2.5M, 20.5 ml | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | sodium hydroxide | 2.5N | [OH-].[Na+]
solvent | water | 1 L | O | H2O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 5-[2-(Benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxylic acid | 7.10 g, 52.8% | S1C2=C(C(=C1)C=CC1=CC=C(S1)C(=O)O)C=CC=C2 | C15H10O2S2
